US07705042B2
a) 3-Nitro-4-piperidin-1-yl-phenylamine
A solution of 1.00 g (6.41 mmol) of 4-fluoro-3-nitroaniline and 3.17 mL (32.1 mmol) of piperidine in 15 mL of acetonitrile under Ar was heated to reflux for 2 h. The mixture was cooled to RT, concentrated in vacuo, dissolved in EtOAc (60 mL) and washed with 1 M NaOH (2×50 mL), water (50 mL), brine (50 mL), and then dried (Na2SO4). Concentration afforded 1.40 g (99%) of the title compound as dark red crystals: 1H-NMR (CDCl3; 400 MHz): δ 7.04 (d, 1H, J=8.6 Hz), 7.03 (d, 1H, J=2.8 Hz), 6.81 (dd, 1H, J=8.6, 2.8 Hz), 2.85-2.88 (m, 4H), 1.65-1.70 (m, 4H), and 1.51-1.55 (m, 2H).

reactant | 4-fluoro-3-nitroaniline | 6.41 mmol, 1.00 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | piperidine | 32.1 mmol, 3.17 mL | N1CCCCC1 | C5H11N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-Nitro-4-piperidin-1-yl-phenylamine | 1.40 g, 99% | [N+](=O)([O-])C=1C=C(C=CC1N1CCCCC1)N | C11H15N3O2
